US05466689
3,4-Dihydro-5-hydroxy-5-methyl-4-trifluoroacetylamino-1-(2,4,6-triisopropylphenylsulfonyl)-5H-benz[cd]indole
Methyl magnesium bromide (1M THF solution 8 equivalents) was allowed to react with a solution of 3,4-dihydro-4-trifluoroacetylamino-1-(2,4,6-triisopropylphenylsulfonyl)-5H-benz[cd]indol-5-one (1.5 g, 1.43 mmol) in THF (14.3 ml). The reaction mixture was processed in a conventional manner. The residue was subjected to silica gel column chromatography, eluting with n-hexane-ethyl acetate (4:1) to afford 1.3 g (84%) of the title compound as an amorphous crystalline product.

reactant | Methyl magnesium bromide | 1M, 8 equivalents | C[Mg]Br
reactant | 3,4-dihydro-4-trifluoroacetylamino-1-(2,4,6-triisopropylphenylsulfonyl)-5H-benz[cd]indol-5-one | 1.43 mmol, 1.5 g | FC(C(=O)NC1C(C=2C=3C(=CN(C3C=CC2)S(=O)(=O)C2=C(C=C(C=C2C(C)C)C(C)C)C(C)C)C1)=O)(F)F | C28H31F3N2O4S
solvent | THF | 14.3 ml | C1CCOC1 | C4H8O
product | 3,4-Dihydro-5-hydroxy-5-methyl-4-trifluoroacetylamino-1-(2,4,6-triisopropylphenylsulfonyl)-5H-benz[cd]indole | 1.3 g, 84% | OC1(C(CC2=CN(C=3C=CC=C1C23)S(=O)(=O)C2=C(C=C(C=C2C(C)C)C(C)C)C(C)C)NC(C(F)(F)F)=O)C | C29H35F3N2O4S
